US04507488
2nd Stage: 5-(Benzylamino-acetamido)-1,4-dimethyl-pyrazole
35 g of 5-(chloroacetamido)-1,4-dimethyl-pyrazole are dissolved in 300 ml of absolute dimethyl formamide and the solution, subsequent to the addition of 46 g of benzylamine, heated to 100° C. for 3 h. The cooled solution is diluted with water and extracted with dichloromethane. The dichloromethane phase is washed with a saturated table-salt solution, dried on sodium sulfate, and concentrated by evaporation. The residue is recrystallized from ethyl acetate.

reactant | 5-(chloroacetamido)-1,4-dimethyl-pyrazole | 35 g | ClCC(=O)NC1=C(C=NN1C)C | C7H10ClN3O
reactant | benzylamine | 46 g | C(C1=CC=CC=C1)N | C7H9N
solvent | dimethyl formamide | 300 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-(Benzylamino-acetamido)-1,4-dimethyl-pyrazole | C(C1=CC=CC=C1)NCC(=O)NC1=C(C=NN1C)C | C14H18N4O
